US06639107B1
Alternative Synthesis of (+,−) Cis -2-Phenyl-cyclopentylamine
Scheme IA, step B: (+,−) 2-Phenyl-cyclopentanone oxime from preparation 6 above was dissolved in 35 mL of ethanol and hydrogenated using 90 mg of 5% Pd/C at 40° C. overnight at 413.69 kPa (60 psi). The solution was filtered and concentrated in vacuo to give 0.43 g (62%) of a colorless oil. Some dimeric material resulted by this procedure according to the mass spec. The cis:trans ratio was estimated to be 4:1. The amine was used directly without further purification. The NMR was consistent with the assigned structure.

reactant | (+,−) 2-Phenyl-cyclopentanone oxime | C1(=CC=CC=C1)C1C(CCC1)=NO | C11H13NO
solvent | ethanol | 35 mL | C(C)O | C2H6O
catalyst | Pd/C | 90 mg | [Pd] | Pd
product | (+,−) Cis -2-Phenyl-cyclopentylamine | 0.43 g, 62% | C1(=CC=CC=C1)[C@@H]1[C@@H](CCC1)N | C11H15N
